US05494887
20. Preparation of 4-Chloro-2-methylthiothiopheno [3,2-d]pyrimidine
4-Hydroxy-2-methylthiothiopheno[3,2-d ]pyrimidine (15.4 g, 78 mmol) was combined with 50 mL of dry acetonitrile and 29 mL (312 mmol) of phosphoryl chloride and 10 mL (78 mmol) of N,N-dimethylaniline were added with stirring. The mixture was heated to reflux with stirring for 2 hours. It was then allowed to cool and most of the acetonitrile was removed by evaporation under reduced pressure. The residue was poured slowly into 200 mL of cold water with cooling and agitation. The resulting mixture was extracted with 4×500 mL of ether and the combined ethereal extracts were dried over magnesium sulfate and concentrated by evaporation under reduced pressure. The 15.3 g of tan solid title compound obtained melted at 115°-118° C. and had a proton NMR spectrum consistent with the assigned structure.

reactant | 4-Hydroxy-2-methylthiothiopheno[3,2-d ]pyrimidine | 78 mmol, 15.4 g | OC=1C2=C(N=C(N1)SC)C=CS2 | C7H6N2OS2
reactant | phosphoryl chloride | 312 mmol, 29 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 78 mmol, 10 mL | CN(C1=CC=CC=C1)C | C8H11N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-Chloro-2-methylthiothiopheno [3,2-d]pyrimidine | 15.3 g | ClC=1C2=C(N=C(N1)SC)C=CS2 | C7H5ClN2S2
